US05457124
Preparation of (E)-7-(Phenylmethoxy)-8-(3-phenyl-2-propenyl)-4H-1-benzopyran-4-one
A mixture of 8.76 g (30 mmol) of 7-(phenylmethoxy)-8-(2-propenyl)-4H-1-benzopyran-4-one (preceding example), 6.70 g (32.84 mmol) of iodobenzene, 5.11 g (30.84 mmol) of tetraethylammonium chloride, 8.94 g (91.22 mmol) of anhydrous sodium acetate, and 64 mL of dry N,N-dimethylformamide was stirred at room temperature while being purged with a stream of argon. Palladium(II) acetate (0.38 g; 1.7 mmol) was added and stirring was continued at room temperature, for 24 hr. The dark mixture was diluted with water and worked-up with ether in the usual manner (the ether extracts were additionally washed with 12% aqueous sodium bisulfite solution). Recrystallization of the crude product from acetonitrile afforded 6.13 g (55.5%) of the title compound as a brown solid. The analytical specimen was obtained from a separate experiment as yellow crystals, mp 131°-133° C.

reactant | 7-(phenylmethoxy)-8-(2-propenyl)-4H-1-benzopyran-4-one | 30 mmol, 8.76 g | C1(=CC=CC=C1)COC1=C(C2=C(C(C=CO2)=O)C=C1)CC=C | C19H16O3
reactant | iodobenzene | 32.84 mmol, 6.70 g | IC1=CC=CC=C1 | C6H5I
reactant | sodium acetate | 91.22 mmol, 8.94 g | C(C)(=O)[O-].[Na+]
reactant | N,N-dimethylformamide | 64 mL | CN(C=O)C | C3H7NO
catalyst | tetraethylammonium chloride | 30.84 mmol, 5.11 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | water | O | H2O
catalyst | Palladium(II) acetate | 1.7 mmol, 0.38 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ether | CCOCC | C4H10O
product | (E)-7-(Phenylmethoxy)-8-(3-phenyl-2-propenyl)-4H-1-benzopyran-4-one | 6.13 g, 55.5% | C1(=CC=CC=C1)COC1=C(C2=C(C(C=CO2)=O)C=C1)C\C=C\C1=CC=CC=C1 | C25H20O3
